US06350749B1
A mixture of 5-(2-chlorophenyl)-1-[2-(4-methylphenylsulfonyl)hydrazino]cyclohexen-3-one (1.56 g), anhydrous potassium carbonate (0.72 g), 1-bromobutan-2-one (0.785 g) and methanol (30 ml) was stirred at room temperature for 2.5 hours. To the mixture was added anhydrous potassium carbonate (0.72 g), and the mixture was stirred at room temperature 1.5 hours and refluxed for 30 minutes. Under reduced pressure, the solvent was evaporated, and the residue was extracted with ethyl acetate. The organic layer was concentrated, and the residue was purified with silica gel column chromatography to give 7-(2-chlorophenyl)-4-ethyl-5,6,7,8-tetrahydrocinnolin-5-one (0.492 g) as oil.

reactant | 5-(2-chlorophenyl)-1-[2-(4-methylphenylsulfonyl)hydrazino]cyclohexen-3-one | 1.56 g | ClC1=C(C=CC=C1)C1CC(C=C(C1)NNS(=O)(=O)C1=CC=C(C=C1)C)=O | C19H19ClN2O3S
reactant | potassium carbonate | 0.72 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromobutan-2-one | 0.785 g | BrCC(CC)=O | C4H7BrO
reactant | potassium carbonate | 0.72 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 30 ml | CO | CH4O
product | 7-(2-chlorophenyl)-4-ethyl-5,6,7,8-tetrahydrocinnolin-5-one | 0.492 g | ClC1=C(C=CC=C1)C1CC(C=2C(=CN=NC2C1)CC)=O | C16H15ClN2O
